US03984421
1,1-Dimethyl-2-[2-[2-(1-piperidinyl)ethyl]phenyl]-1,2-ethanediamine, dihydrochloride
To a solution of 1,1-dimethyl-2-[2-[2-(1-piperidinyl)ethyl]phenyl]-1,2-ethanediamine (2.7g) prepared as described in Example 3 in dry ether (50 ml) is added, with stirring and cooling, 10 ml of N ethereal hydrogen chloride solution, dropwise; the title compound separates out.

reactant | 1,1-dimethyl-2-[2-[2-(1-piperidinyl)ethyl]phenyl]-1,2-ethanediamine | 2.7g | CC(C(N)C1=C(C=CC=C1)CCN1CCCCC1)(N)C | C17H29N3
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1,1-Dimethyl-2-[2-[2-(1-piperidinyl)ethyl]phenyl]-1,2-ethanediamine, dihydrochloride | Cl.Cl.CC(C(N)C1=C(C=CC=C1)CCN1CCCCC1)(N)C | InChI=1S/C17H29N3.2ClH/c1-17(2,19)16(18)15-9-5-4-8-14(15)10-13-20-11-6-3-7-12-20;;/h4-5,8-9,16H,3,6-7,10-13,18-19H2,1-2H3;2*1H
